US06162818
Ethylenediamine (0.711 mL, 10.6 mmol) is added to a solution of 3-chloro-4-isothiocyanatoindole (0.370 g, 1.77 mmol) in methylene chloride (15 mL). The resulting solution is stirred at room temperature for 1 hour. The reaction mixture is concentrated by rotary evaporation and the crude material purified via silica gel column chromatography using 7% methanol (ammonium hydroxide treated)/methylene chloride as the eluent. The appropriate fractions are combined and the solvents removed by rotary evaporation to yield 0.484 g of 4-[N'-(2-aminoethyl)thioureido]-3-chloroindole as a white solid (90% yield).

reactant | Ethylenediamine | 10.6 mmol, 0.711 mL | C(CN)N | C2H8N2
reactant | 3-chloro-4-isothiocyanatoindole | 1.77 mmol, 0.370 g | ClC1=CNC2=CC=CC(=C12)N=C=S | C9H5ClN2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[N'-(2-aminoethyl)thioureido]-3-chloroindole | 0.484 g, 90% yield | NCCNC(NC1=C2C(=CNC2=CC=C1)Cl)=S | C11H13ClN4S
